US04609664
9,10-dihydro-4-{-1[2-[2-(2-hydroxyethoxy)ethoxy]ethyl]piperidin-4-ylidene}-4H-benzo-[4,5]cyclohepta[1,2-b]thiophene-10-ol
5.8 g 4-{1-[2-[2-(2-hydroxyethoxy)ethoxy]ethyl]piperidin-4-ylidene}-4H-benzo[4,5]cyclohepta[1,2-b]thiophene-10(9H)one hydrobromide are added with stirring to a solution of 0.5 g sodium hydroxide in 100 ml ethanol. After 15 minutes, 0.45 g sodium borhydride are added in small portions and the mixture is agitated for 20 hours at room temperature. The solvent is then distilled off, the residue is taken up with water and with sodium hydroxide solution and extracted several times with chloroform. The combined extracts are then dried and evaporated, to give the title compound as a light yellow oil. The hydrogenofumarate of the title compound melts at 110°-113°.

reactant | 4-{1-[2-[2-(2-hydroxyethoxy)ethoxy]ethyl]piperidin-4-ylidene}-4H-benzo[4,5]cyclohepta[1,2-b]thiophene-10(9H)one hydrobromide | 5.8 g | Br.OCCOCCOCCN1CCC(CC1)=C1C2=C(CC(C=3SC=CC31)=O)C=CC=C2
reactant | sodium hydroxide | 0.5 g | [OH-].[Na+]
reactant | sodium | 0.45 g | [Na] | Na
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 9,10-dihydro-4-{-1[2-[2-(2-hydroxyethoxy)ethoxy]ethyl]piperidin-4-ylidene}-4H-benzo-[4,5]cyclohepta[1,2-b]thiophene-10-ol | OCCOCCOCCN1CCC(CC1)=C1C2=C(CC(C=3SC=CC31)O)C=CC=C2 | C24H31NO4S
